US08242104B2
To a solution of (S)-2-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino]-propionic acid tert-butyl ester (0.24 g, 0.55 mmol) in DCE (7 mL) was added aqueous formaldehyde (4.4 mL, 55.4 mmol, 37% solution) and sodium triacetoxyborohydride (7.2 g, 34.0 mmol) portion wise over 58 h. The resulting mixture was then washed with saturated aqueous sodium carbonate and the aqueous phase extracted with further DCM. The combined organic phases were dried (Na2SO4) and concentrated in vacuo to give (S)-2-{[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-methyl-amino}-propionic acid tert-butyl ester (0.24 g, 97%). LCMS: RT=3.81 min, [M+H]+=453.

reactant | (S)-2-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino]-propionic acid tert-butyl ester | 0.55 mmol, 0.24 g | C(C)(C)(C)OC([C@H](C)NC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)=O | C23H30N6O3
reactant | formaldehyde | 55.4 mmol, 4.4 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 34.0 mmol, 7.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 7 mL | ClCCCl | C2H4Cl2
product | (S)-2-{[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-methyl-amino}-propionic acid tert-butyl ester | 0.24 g, 97% | C(C)(C)(C)OC([C@H](C)N(C)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)=O | C24H32N6O3
